US06432880B1
Intermediate 1.7: 2,3-Dichloro-5-(methylsulfonyloxy)pyridine
At 0° C., initially 7.9 g of triethylamine and then 8.5 g of methanesulfonyl chloride were added to 11.6 g of 2,3-dichloro-5-hydroxypyridine in 150 ml of methylene chloride. The mixture was subsequently stirred at approximately 20° C. for 17 hours and then washed with 100 ml of water. The organic phase was dried over magnesium sulfate and then concentrated. The resulting crude product was purified by silica gel chromatography (mobile phase: ethyl acetate/cyclohexane (1:1)). Yield: 9.1 g.

reactant | triethylamine | 7.9 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 8.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,3-dichloro-5-hydroxypyridine | 11.6 g | ClC1=NC=C(C=C1Cl)O | C5H3Cl2NO
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2,3-Dichloro-5-(methylsulfonyloxy)pyridine | ClC1=NC=C(C=C1Cl)OS(=O)(=O)C | C6H5Cl2NO3S
